US08222248B2
A mixture of 3,4-diamino-N-(3-chloro-phenyl)-benzamide (0.1 mL in 0.2 M DMSO solution), 2,6-dimethyl-benzaldehyde (0.1 mL in 0.2 M toluene solution) and YB(SO3CF3)3 (0.1 mL in 0.02M THF solution) was shaked at room temperature for 16 h. Then another 0.04 mL of 2,6-dimethyl benzaldehyde (0.2 M) toluene solution was added. The mixture was stirred in open air at ambient temperature overnight. The mixture was then diluted by MeOH and the whole was loaded onto a solid phase extraction (SPE) cartridge that contained strong cation exchange (SCX) (1 g media in 6 mL cartridge, United Chemical Technology). Wash-to-waste (5 mL MeOH) was followed by elute-to-collect (5 mL 20:2:1 ethyl acetate-MeOH-Et3N) and, after evaporation of volatiles, the crude was further purified by silica gel column chromatography to give of 2-(2,6-dimethyl-phenyl)-3H-benzoimidazole-5-carboxylic acid (3-chloro-phenyl)-amide as white powder: MS (m/z) 376 (M+1).

reactant | 3,4-diamino-N-(3-chloro-phenyl)-benzamide | 0.2 M, 0.1 mL | NC=1C=C(C(=O)NC2=CC(=CC=C2)Cl)C=CC1N | C13H12ClN3O
reactant | 2,6-dimethyl-benzaldehyde | 0.2 M, 0.1 mL | CC1=C(C=O)C(=CC=C1)C | C9H10O
reactant | 2,6-dimethyl benzaldehyde | 0.2 M, 0.04 mL | CC1=C(C=O)C(=CC=C1)C | C9H10O
solvent | MeOH | CO | CH4O
product | 2-(2,6-dimethyl-phenyl)-3H-benzoimidazole-5-carboxylic acid (3-chloro-phenyl)-amide | ClC=1C=C(C=CC1)NC(=O)C1=CC2=C(N=C(N2)C2=C(C=CC=C2C)C)C=C1 | C22H18ClN3O
